US09416111B2
To a solution of methyl trans-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethyl}cyclohexanecarboxylate (isomer 1) (20 mg, 0.042 mmol) in THF (2 mL) and water (0.5 mL) was added lithium hydroxide (3.0 mg, 0.12 mmol), and the mixture was stirred for 8 hours at 60° C. After cooling to room temperature, the mixture was adjusted to pH 2 by adding 1 M aqueous hydrochloric acid, diluted with brine, and extracted with ethyl acetate (3×100 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by prep-TLC (ethyl acetate/petroleum ether) to give trans-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethyl}cyclohexanecarboxylic acid, isomer 1 (example 6.1). MS ESI calc'd for C25H28F2N5O2 [M+H]+ 468. found 468. 1H NMR: (400 MHz, DMSO-d6) δ 10.08 (s, 1H), 8.99 (s, 2H), 8.74-8.73 (m, 1H), 8.02 (s, 1H), 7.61 (s, 1H), 7.24 (s, 1H), 7.10-7.09 (m, 1H), 6.91 (t, J=54 Hz, 1H), 2.84-2.80 (m, 1H), 2.37 (s, 3H), 2.13-2.07 (m, 1H), 1.96-1.81 (m, 3H), 1.73-1.71 (m, 1H), 1.36-1.06 (m, 8H).

reactant | methyl trans-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethyl}cyclohexanecarboxylate | 0.042 mmol, 20 mg | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C(C)[C@@H]1CC[C@H](CC1)C(=O)OC)F | C26H29F2N5O2
reactant | lithium hydroxide | 0.12 mmol, 3.0 mg | [OH-].[Li+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
product | trans-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethyl}cyclohexanecarboxylic acid | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C(C)[C@@H]1CC[C@H](CC1)C(=O)O)F | C25H27F2N5O2
